US07732604B2
Preparation of 6-{[6-(1-oxa-5-azaspiro[2.4]hept-5-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl]methyl}quinoline:
To a flamed dry 3N round bottom flask fitted with a thermometer and condenser was added 95% NaH (69 mg, 2.69 mmol) and anhydrous DMSO (5.0 ml). After stirring for 2 min at R.T. and 70° C. for 45 mins, the reaction mixture was cooled to 3° C. and a solution of trimethylsulfonium iodide (504.1 mg, 2.47 mmol) in DMSO (3.6 ml) was added. After stirring for 30 mins at 3° C., to the reaction mixture, a suspension of 1-[1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl]pyrrolidin-3-one (200 mg, 0.58 mmol) in 1:1 THF: DMSO (16 ml) was added dropwise. After stirring at 0° C. for 3 h, the reaction mixture was poured into an ice cold water (15 ml) and extracted with CH2Cl2 (4×60 ml). The organic layer was washed with brine and dried with MgSO4 and concentrated under reduced pressure. The resulting residue was purified via flash column chromatography eluted with 10% MeOH:CH2Cl2 to give the desired product (130 mg 63%).

reactant | NaH | 2.69 mmol, 69 mg | [H-].[Na+]
reactant | trimethylsulfonium iodide | 2.47 mmol, 504.1 mg | [I-].C[S+](C)C
reactant | 1-[1-(quinolin-6-ylmethyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl]pyrrolidin-3-one | 0.58 mmol, 200 mg | N1=CC=CC2=CC(=CC=C12)CN1N=NC=2C1=NC(=CN2)N2CC(CC2)=O | C18H15N7O
reactant | THF | C1CCOC1 | C4H8O
solvent | DMSO | 3.6 ml | CS(=O)C | C2H6OS
solvent | DMSO | 16 ml | CS(=O)C | C2H6OS
solvent | DMSO | 5.0 ml | CS(=O)C | C2H6OS
product | 6-{[6-(1-oxa-5-azaspiro[2.4]hept-5-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl]methyl}quinoline | 130 mg, 63% | O1CC12CN(CC2)C2=CN=C1C(=N2)N(N=N1)CC=1C=C2C=CC=NC2=CC1 | C19H17N7O
